US07531532B2
4-(Pyrrolidin-1-ylmethyl)piperidine-1-carboxylic acid [6-(2-fluoro-4-nitrophenoxy)pyrimidin-4-yl]amide (350 mg) was dissolved in tetrahydrofuran (8 ml) and methanol (8 ml), and then 10% palladium carbon (162 mg) was added, followed by stirring under a hydrogen atmosphere for 6 hrs. The reaction mixture was filtered to remove the catalyst. The filtrate was concentrated under reduced pressure to give a residue, which was purified by silica gel column chromatography (eluent; ethyl acetate:methanol=9:1). Fractions containing the target compound were concentrated to provide a crude product of 4-(pyrrolidin-1-ylmethyl)piperidine-1-carboxylic acid [6-(4-amino-2-fluorophenoxy)pyrimidin-4-yl]amide (201.4 mg) as pale yellow foam.

reactant | 4-(Pyrrolidin-1-ylmethyl)piperidine-1-carboxylic acid [6-(2-fluoro-4-nitrophenoxy)pyrimidin-4-yl]amide | 350 mg | FC1=C(OC2=CC(=NC=N2)NC(=O)N2CCC(CC2)CN2CCCC2)C=CC(=C1)[N+](=O)[O-] | C21H25FN6O4
solvent | tetrahydrofuran | 8 ml | O1CCCC1 | C4H8O
solvent | methanol | 8 ml | CO | CH4O
catalyst | palladium carbon | 162 mg | [C].[Pd]
product | 4-(pyrrolidin-1-ylmethyl)piperidine-1-carboxylic acid [6-(4-amino-2-fluorophenoxy)pyrimidin-4-yl]amide | 201.4 mg | NC1=CC(=C(OC2=CC(=NC=N2)NC(=O)N2CCC(CC2)CN2CCCC2)C=C1)F | C21H27FN6O2
